US08975267B2
Methyl (6E)-6-[(dimethylamino)methylidene]-1-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylate
Methyl 1-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylate (288 mg, 1.39 mmol) was treated with tris(dimethylamino)methane (2.4 mL, 13.9 mmol) and the reaction mixture was stirred at 90° C. for 10 h. Volatiles were removed under reduced pressure and the residue used without further purification.

reactant | Methyl 1-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylate | 1.39 mmol, 288 mg | CN1C=C(C=2CCCC(C12)=O)C(=O)OC | C11H13NO3
reactant | tris(dimethylamino)methane | 13.9 mmol, 2.4 mL | CN(C)C(N(C)C)N(C)C | C7H19N3
product | Methyl (6E)-6-[(dimethylamino)methylidene]-1-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylate | CN(C)\C=C\1/CCC=2C(=CN(C2C1=O)C)C(=O)OC | C14H18N2O3
